US09328110B2
The general method described in Step 7 of Example 1 was used to react 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde (8.5 g, 28.8 mmol) with methylmagnesium bromide (20.6 mL of a 1.4 M solution in toluene/THF, 28.8 mmol) to provide 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-ol (3.54 g) as an off-white solid after chromatography on silica gel (elution with 5% methanol in dichloromethane).

reactant | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde | 28.8 mmol, 8.5 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC=O | C18H21N3O
reactant | methylmagnesium bromide | C[Mg]Br
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
product | 5-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)pentan-2-ol | 3.54 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(C)O | C19H25N3O
